US08729263B2
To a crude solution of 3-methoxy-4-(6-(methyl-(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzoic acid (620 mg, 1.56 mmol) in DMF (10 mL) and CH2Cl2 (10 mL) was added propargyl amine (129 mg, 2.33 mmol), DIPEA (0.82 mL, 4.67 mmol) and HATU (887 mg, 2.33 mmol). The reaction was stirred at RT overnight, then diluted with water and EtOAc. The layers were separated and the aqueous layer was concentrated and partially dissolved in MeOH. The resultant white precipitate was filtered, and the MeOH filtrate was concentrated. The filtrate was dissolved in MeOH and the resultant precipitate filtered. The filtrate was concentrated and purified via HPLC(C18 sunfire column, 20% CH3CN/H2O to 100% CH3CN, 0.1% NH4OH aq. as modifier to give 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-N-(prop-2-yn-1-yl)benzamide (190 mg). LCMS Rt=0.86 min (condition B); MS (M+1)=436.3. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.82 (d, J=9.6 Hz, 1H), 7.73 (d, J=8.1 Hz, 1H), 7.58 (d, J=1.5 Hz, 1H), 7.52 (dd, J=7.8, 1.5 Hz, 1H), 7.10 (d, J=9.6 Hz, 1H), 5.15-5.27 (m, 1H), 4.18 (d, J=2.3 Hz, 2H), 3.93 (s, 3H), 2.99 (s, 3H), 2.63 (t, J=2.5 Hz, 1H), 1.67 (dd, J=12.5, 3.4 Hz, 2H), 1.54 (t, J=12.5 Hz, 2H), 1.33 (s, 6H), 1.20 (s, 6H).

reactant | 3-methoxy-4-(6-(methyl-(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)benzoic acid | 1.56 mmol, 620 mg | COC=1C=C(C(=O)O)C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C22H30N4O3
reactant | propargyl amine | 2.33 mmol, 129 mg | C(C#C)N | C3H5N
reactant | DIPEA | 4.67 mmol, 0.82 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.33 mmol, 887 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-methoxy-4-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-N-(prop-2-yn-1-yl)benzamide | 190 mg | COC=1C=C(C(=O)NCC#C)C=CC1C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C25H33N5O2
